US08222248B2
{3,5-Dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid
To a solution of {3,5-dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid methyl ester (100 mg, 0.19 mmol) in MeOH (3 mL) was added 1N NaOH (3 mL) and the solution was stirred at ambient temperature for 3 h. The solution was carefully acidified to pH 3-4 with 1N HCl and the suspension was filtered, washed with water, and the pale yellow solid was dried in vacuum oven to give the title compound. 1H NMR (Methanol-d4, 400 MHz): δ 11.14 (s, 1H), 8.46 (s, 1H), 8.43 (q, 2H), 8.02 (dd, 1H), 7.97 (d, 1H), 7.91 (d, 1H), 7.76 (m, 2H), 7.55 (m, 1H), 7.32 (s, 2H), 4.93 (s, 2H). MS (m/z) 507.3 (M+1); Retention time: 1.11 min (Method 10).

reactant | {3,5-dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid methyl ester | 0.19 mmol, 100 mg | COC(COC1=CC(=C(C(=C1)Cl)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)Cl)=O | C26H18Cl2N4O4
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | {3,5-Dichloro-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid | ClC=1C=C(OCC(=O)O)C=C(C1C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)Cl | C25H16Cl2N4O4
